US08133995B2
Step 1: Preparation of 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline
4-Bromo-2-fluoroaniline (45.00 g, 236.8 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (66.15 g, 260.5 mmol, 1.1 eq) were added as solids to a flask then dissolved in 1,4-dioxanes (250 mL) and placed under N2. The reaction was taken through five purge-fill cycles using high vacuum and nitrogen. To this solution was added potassium acetate (69.72 g, 710.4 mmol, 3 eq) and the reaction was again taken through three purge-fill cycles using high vacuum and nitrogen. To the reaction was added 1,1-bis(diphenylphosphino)ferrocene (5.20 g, 7.1 mmol, 0.03 eq). The reaction was taken one final time through five purge-fill cycles using high vacuum and nitrogen. The reaction was heated at 80° C. overnight (17 hr). After cooling to rt, EtOAc was added (1000 mL) and the reaction was partitioned between EtOAc and water. The organic phase was washed with brine, dried (Na2SO4), filtered, concentrated in vacuo. The crude material was dissolved in dichloromethane and the desired product (50.84 g, 90.6% yield) was obtained after flash column chromatography (9:1 Hexanes:EtOAc). 1H-NMR (DMSO-d6) δ 7.17 (dd, J=7.8, 1.4 Hz, 1H), 7.12 (dd, 12.1, 1.2 Hz, 1H), 6.70 (t, 7.9 Hz, 1H) 5.56 (s, 2H), 1.22 (s, 12H); MS [M+H]+=238, LCMS RT=3.35 min.

reactant | 4-Bromo-2-fluoroaniline | 236.8 mmol, 45.00 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 260.5 mmol, 66.15 g, 1.1 eq | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 710.4 mmol, 69.72 g, 3 eq | C(C)(=O)[O-].[K+]
catalyst | 1,1-bis(diphenylphosphino)ferrocene | 7.1 mmol, 5.20 g, 0.03 eq | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 50.84 g, 90.6% yield | FC1=C(N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H17BFNO2
